US08008307B2
Step c: 4-[6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-8-yl]-7-chloroquinoline
To a solution of 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (258.4 mg, 0.0003752 mol) in 1,2-Dimethoxyethane (3.0 mL, 0.029 mol) was added 7-chloroquinoline-4-boronic acid pinacol ester (0.158 g, 0.000546 mol), barium hydroxide (0.228 g, 0.00133 mol), water (0.5 mL, 0.03 mol) and Tetrakis(triphenylphosphine)palladium(0) (0.02 g, 0.00002 mol), and the mixture was heated at 90° C. overnight. The reaction was cooled, quenched by addition of water and the mixture was extracted with DCM (3×), washed with water, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 30% EtOAc/hexanes) to obtain 180 mg (66.2%) mg. Reference: Cammidge, A. N.; Crepy, K. V. L. Tetrahedron, 2004, 60, 4377-4386.

reactant | 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.0003752 mol, 258.4 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C2N=C(N(C2=NC=N1)C1OCCCC1)I | C28H49IN4O4Si2
reactant | 1,2-Dimethoxyethane | 0.029 mol, 3.0 mL | COCCOC | C4H10O2
reactant | 7-chloroquinoline-4-boronic acid pinacol ester | 0.000546 mol, 0.158 g | ClC1=CC=C2C(=CC=NC2=C1)B1OC(C)(C)C(C)(C)O1 | C15H17BClNO2
reactant | barium hydroxide | 0.00133 mol, 0.228 g | [OH-].[Ba+2].[OH-]
reactant | water | 0.03 mol, 0.5 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.00002 mol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-8-yl]-7-chloroquinoline | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C2N=C(N(C2=NC=N1)C1OCCCC1)C1=CC=NC2=CC(=CC=C12)Cl | C37H54ClN5O4Si2
